US08729263B2
Step 6: 3-Hydroxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(trifluoromethoxy)phenyl trifluoromethanesulfonate
A mixture of 4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenyl trifluoromethanesulfonate (86 mg, 0.16 mmol), iodobenzene diacetate (71.5 mg, 0.222 mmol) and Pd(OAc)2 (3.6 mg, 0.016 mmol) in AcOH (0.6 mL) and Ac2O (0.6 mL) was heated at 75° C. for 3 hours. The mixture was then heated at 80° C. overnight after addition of another 40 mg of iodobenzene diacetate. The reaction mixture was cooled to room temperature and concentrated. The residue was loaded onto an SCX column, washed with MeOH and diluted with 2 M NH3 in MeOH. The product-containing fractions were concentrated. The residue was treated with 7 M NH3/MeOH and stirred at 40° C. for 4 h. The crude material was purified via flash column chromatography to give the title compound as a beige solid (32 mg, 36.1%). MS (M+1)=559.4.

reactant | 4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenyl trifluoromethanesulfonate | 0.16 mmol, 86 mg | FC(S(=O)(=O)OC1=CC(=C(C=C1)C=1N=NC(=CC1)NC1CC(NC(C1)(C)C)(C)C)OC(F)(F)F)(F)F | C21H24F6N4O4S
reactant | iodobenzene diacetate | 0.222 mmol, 71.5 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | iodobenzene diacetate | 40 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | AcOH | 0.6 mL | CC(=O)O | C2H4O2
solvent | Ac2O | 0.6 mL | CC(=O)OC(=O)C | C4H6O3
catalyst | Pd(OAc)2 | 0.016 mmol, 3.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-Hydroxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(trifluoromethoxy)phenyl trifluoromethanesulfonate | 32 mg, 36.1% | FC(S(=O)(=O)OC1=CC(=C(C(=C1)OC(F)(F)F)C=1N=NC(=CC1)NC1CC(NC(C1)(C)C)(C)C)O)(F)F | C21H24F6N4O5S
